US07291632B2
Preparation 39. 4-(6-(4-Fluorobenzoylamino)pyridin-2-ylamino)piperidine-1-carboxylic acid t-butyl ester
Place N-(6-aminopyridin-2-yl)-4-fluorobenzamide (P reparation 37) (2 g, 8.3 mmol)and 1-boc-4-piperidone (15.0 g, 83 mmol) in 1,2-dichloroethane (20 mL). Stir for 1 hr. then add sodium triacetoxyborohydrlde (4.38 g, 20.8 mmol). After stirring for 36 hr., quench with 1 N NaOH and dilute with CH2Cl2. Separate and extract the aqueous layer twice with CH2Cl2, combine organics, dry over MgSO4, and concentrate. Take up the residue in CH2Cl2, and place on two 10 g SCX colulmns. Wash the columns successively with CH2Cl2 and then with methanol. Elute the product with 2M NH3 in methanol. Concentrate and chromatograph on silica gel, eluting with a gradient of 0–10% (2M NH3 in methanol) in CH2Cl2) to give the title intermediate 3.11 g (90%): mass spectrum (ion spray): m/z 415.4 (M+1); mp 82.7° C.

reactant | N-(6-aminopyridin-2-yl)-4-fluorobenzamide | 8.3 mmol, 2 g | NC1=CC=CC(=N1)NC(C1=CC=C(C=C1)F)=O | C12H10FN3O
reactant | 1-boc-4-piperidone | 83 mmol, 15.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | sodium | [Na] | Na
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-(6-(4-Fluorobenzoylamino)pyridin-2-ylamino)piperidine-1-carboxylic acid t-butyl ester | 3.11 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC=C1)NC(C1=CC=C(C=C1)F)=O | C22H27FN4O3
